US08497265B2
To a solution of 2-(3-((3-(piperidin-4-yl)pyrazin-2-yl)oxy)azetidin-1-yl)quinoline hydrochloride (see PREPARATION P4.1; 100 mg, 0.29 mmol) in dry DCM (10 mL) was added Et3N (1 mL). The reaction mixture was cooled to 0° C. with an ice bath, and methyl carbonochloridate (54 mg, 0.58 mmol) was added dropped to the reaction mixture. After 1 hour, the reaction mixture was warmed to RT, and stirred overnight. Then the reaction mixture was washed with brine, dried over Na2SO4, filtered, and concentrated under vacuum to give the crude product. The crude product was purified via flash chromatography on silica gel (20% to 45% EtOAc in petroleum ether) to give methyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate (93 mg, 0.23 mmol, 79% yield) as a white solid. ESI-MS (M+1): 404 calc. for C23H25N5O2 403.

reactant | 2-(3-((3-(piperidin-4-yl)pyrazin-2-yl)oxy)azetidin-1-yl)quinoline hydrochloride | 0.29 mmol, 100 mg | Cl.N1CCC(CC1)C=1C(=NC=CN1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
reactant | methyl carbonochloridate | 0.58 mmol, 54 mg | C(OC)(=O)Cl | C2H3ClO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate | 0.23 mmol, 93 mg, 79% yield | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC | C23H25N5O3
